US04267179
A mixture of 12.5 parts of N,N-bis(2-chloroethyl)-4-methoxybenzenamine, 8 parts of 4-(1H-pyrazol-1-yl)benzenamine, 2 parts of potassium iodide, 80 parts of 2-propanone and 100 parts of water is stirred and refluxed for 24 hours. The reaction mixture is cooled. The precipitated product is filtered off (the filtrate is set aside), washed with water and with 2-propanone, yielding a first crude fraction of 6 parts. The filtrate (see above) is neutralized with a sodium hydrogen carbonate solution and extracted with trichloromethane. The extract is dried, filtered and evaporated. The residue is triturated in 2-propanol. The product is filtered off and washed with methanol, yielding a second crude fraction of 2 parts. The combined crude crops (resp. 6 and 2 parts) are crystallized from 1-butanol, yielding 7.1 parts of 1-(4-methoxyphenyl)-4-[4-(1H-pyrazol-1-yl)-phenyl]piperazine; mp. 207.7° C.

reactant | N,N-bis(2-chloroethyl)-4-methoxybenzenamine | ClCCN(C1=CC=C(C=C1)OC)CCCl | C11H15Cl2NO
reactant | 4-(1H-pyrazol-1-yl)benzenamine | N1(N=CC=C1)C1=CC=C(C=C1)N | C9H9N3
reactant | potassium iodide | [I-].[K+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | water | O | H2O
solvent | 2-propanone | CC(C)=O | C3H6O
product | 1-(4-methoxyphenyl)-4-[4-(1H-pyrazol-1-yl)-phenyl]piperazine | COC1=CC=C(C=C1)N1CCN(CC1)C1=CC=C(C=C1)N1N=CC=C1 | C20H22N4O
